US08791123B2
(R)-ethyl 5-(2-(5-fluoro-2-(trifluoromethyl)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate (0.92 g, 2.2 mmol) was combined with 1N NaOH (25 mL) and MeOH (40 mL). The reaction mixture was stirred at ambient temperature for 20 hours, followed by heating to 40° C. until complete. Citric acid solid) was added until the mixture was pH 4-5. Brine (10 mL) was added and this was extracted with DCM and EtOAc. The combined organic layers were concentrated and the crude product was purified by reverse phase silica gel column chromatography eluting with 0-60% acetonitrile/water to yield 5-(2-(5-fluoro-2-(trifluoromethyl)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (0.45 g, 52%). MS (apci) m/z=395.0 (M+H).

reactant | (R)-ethyl 5-(2-(5-fluoro-2-(trifluoromethyl)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 2.2 mmol, 0.92 g | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)OCC)C(F)(F)F | C20H18F4N4O2
reactant | NaOH | 1N, 25 mL | [OH-].[Na+]
reactant | MeOH | 40 mL | CO | CH4O
reactant | Citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | Brine | 10 mL | [Cl-].[Na+].O
product | 5-(2-(5-fluoro-2-(trifluoromethyl)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.45 g, 52% | FC=1C=CC(=C(C1)C1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O)C(F)(F)F | C18H14F4N4O2
